US05292760
A mixture of 6.39 g of 2-[(2,5-dioxo-1-pyrrolidinyl)methyl]amino-N-formyl-N-methyl-α-(3-methyl-2-thienyl)benzeneethanamine, 20 ml of anhydrous dimethyl sulfoxide and 0.72 g of sodium borohydride was stirred at ambient temperature for 15 minutes and then heated on a steam bath for 15 minutes with occasional agitation. After standing for 2 hours at ambient temperature, the reaction mixture was decanted into 150 ml of water and extracted with diethyl ether (2×100 ml). The organic phase was washed with water (2×100 ml), dried over anhydrous sodium sulfate, and concentrated to an oil. Thin layer chromatography of the resultant oil indicated a multi-component mixture. Purification of the mixture was accomplished by HPLC (Waters Associates Prep LC/System 500, silica gel, elution with methanol]. Concentration of the appropriate fractions afforded N-formyl-N-methyl-2-methylamino-α-(3-methyl-2-thienyl)benzeneethanamine) as an oil.

reactant | 2-[(2,5-dioxo-1-pyrrolidinyl)methyl]amino-N-formyl-N-methyl-α-(3-methyl-2-thienyl)benzeneethanamine | 6.39 g | O=C1N(C(CC1)=O)CNC1=C(C=CC=C1)CC(N(C)C=O)C=1SC=CC1C | C20H23N3O3S
reactant | sodium borohydride | 0.72 g | [BH4-].[Na+]
solvent | dimethyl sulfoxide | 20 ml | CS(=O)C | C2H6OS
product | N-formyl-N-methyl-2-methylamino-α-(3-methyl-2-thienyl)benzeneethanamine | C(=O)N(C(CC1=C(C=CC=C1)NC)C=1SC=CC1C)C | C16H20N2OS
